US09120825B2
In an argon atmosphere, a dilithium(N,N′-di-tert-butyl-1,2-vinylenediaminide) solution prepared according to the procedure and reagent quantities described in Reference Example-9 was added to a hexane (50 mL) solution containing 25.20 g (186.0 mmol) of trichlorosilane, and the mixture was stirred at room temperature for 3 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 80° C./3.8×102 Pa) to obtain 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)Cl) as a colorless liquid (yielded amount: 35.58 g, yield: 83%).

reactant | dilithium(N,N′-di-tert-butyl-1,2-vinylenediaminide) | C(C)(C)(C)[N-]C=C[N-]C(C)(C)C.[Li+].[Li+]
reactant | trichlorosilane | 186.0 mmol, 25.20 g | Cl[SiH](Cl)Cl | Cl3HSi
solvent | hexane | 50 mL | CCCCCC | C6H14
product | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | yield: 83% | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
